US06756378B2
To a stirred cold (minus 78° C.) solution of 1-(tert-butoxycarbonyl)-2-(2,2-dibromoethenyl)pyrrolidine (7.81 g, 22 mmol) in THF (200 mL) was added n-BuLi (1.59 M in hexane, 28 mL, 44 mmol) over 10 min. and the stirring was continued for 2 hr at the same temp. The reaction was quenched by the addition of sat. NH4Cl and extracted with EtOAc. The extract was washed with brine, dried over MgSO4, and evaporated. The residue was chromatographed on silica-gel with n-hexane-AcOEt (10:1, v/v) as eluent to give 4.15 g (97%) 1-(tert-butoxycarbonyl)-2-ethynyl pyrrolidine as a light yellow oil. 1H-NMR (CDCl3) δ1.48 (9 H, s), 1.82-2.21 (4 H, m), 3.30-3.45 (2 H, m), 4.41-4.52 (1 H, m).

reactant | 1-(tert-butoxycarbonyl)-2-(2,2-dibromoethenyl)pyrrolidine | 22 mmol, 7.81 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=C(Br)Br | C11H17Br2NO2
reactant | n-BuLi | 44 mmol, 1.59 M, 28 mL | [Li]CCCC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-2-ethynyl pyrrolidine | 4.15 g, 97% | C(C)(C)(C)OC(=O)N1C(CCC1)C#C | C11H17NO2
